US08426420B2
ii) 4-((S)-2-Amino-4-benzyloxy-butyryl)-piperazine-1-carboxylic acid ethyl ester hydrotrifluoroacetate
To a solution of 1.23 g 4-((S)-4-benzyloxy-2-tert-butoxycarbonylamino-butyryl)-piperazine-1-carboxylic acid ethyl ester in 7 ml dichloromethane were added 2 ml TFA. After stirring for 12 h and evaporation of the solvents the crude trifluoroacetate salt was obtained as colorless oil. Yield: 1.30 g.

reactant | 4-((S)-4-benzyloxy-2-tert-butoxycarbonylamino-butyryl)-piperazine-1-carboxylic acid ethyl ester | 1.23 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CCOCC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C23H35N3O6
reactant | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | 4-((S)-2-Amino-4-benzyloxy-butyryl)-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCOCC1=CC=CC=C1)N)=O | C18H27N3O4
